US07378448B2
Combine {2-[4-(4-nitro-phenoxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester (1.3 g), 5% Pd/C (100 mg), and methanol (50 mL) then hydrogenated at 40 PSIG at room temperature for 2 hours. Filter off catalyst then concentrate on a rotary evaporator to yield {2-[4-(4-Amino-phenoxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester (1.2 g): 1H NMR (CDCl3, 300.00 MHz): 7.12 (d, 2H, J=8.4 Hz), 6.89 (d, 4H, J=8.8 Hz), 6.72 (d, 2H, J=8.8 Hz), 4.61 (s, 1H), 3.42-3.32 (m, 2H), 2.77 (t, 2H, J=7.0 Hz), 1.46 (s, 9H). Step 4 {2-[4-(4-Acetylamino-phenoxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester

reactant | {2-[4-(4-nitro-phenoxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester | 1.3 g | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)OC1=CC=C(C=C1)[N+](=O)[O-])=O | C19H22N2O5
catalyst | Pd/C | 100 mg | [Pd] | Pd
solvent | methanol | 50 mL | CO | CH4O
product | {2-[4-(4-Amino-phenoxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester | 1.2 g | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)OC1=CC=C(C=C1)N)=O | C19H24N2O3
